US07977344B2
6-Amino-2-(butylamino)-9-[2-(2,2-dimethyltetrahydro-2H-pyran-4-yl)ethyl]-7,9-dihydro-8H-purin-8-one
To a solution of N2-butyl-9-[2-(2,2-dimethyltetrahydro-2H-pyran-4-yl)ethyl]-8-(methyloxy)-9H-purine-2,6-diamine (135 mg, 0.359 mmol) in methanol (10 ml) was added 4M HCl solution in dioxane (2.241 ml, 8.96 mmol) and the mixture was left standing at 20° C. After 6 hours the solvent was evaporated under a stream of nitrogen. The residue was loaded in methanol onto a 10 g aminopropyl SPE cartridge and eluted with methanol. The solvent was removed by evaporation to give the title compound (129 mg).

reactant | N2-butyl-9-[2-(2,2-dimethyltetrahydro-2H-pyran-4-yl)ethyl]-8-(methyloxy)-9H-purine-2,6-diamine | 0.359 mmol, 135 mg | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CCC1CC(OCC1)(C)C)OC)N | C19H32N6O2
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 8.96 mmol, 2.241 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
product | 6-Amino-2-(butylamino)-9-[2-(2,2-dimethyltetrahydro-2H-pyran-4-yl)ethyl]-7,9-dihydro-8H-purin-8-one | 129 mg | NC1=C2NC(N(C2=NC(=N1)NCCCC)CCC1CC(OCC1)(C)C)=O | C18H30N6O2
